US07951963B2
To 1,2-dimethoxyethane (10 mL) suspension of 0.02 g of tris(dibenzylideneacetone)dipalladium(0) were added 0.11 g of 10% (w/w) tri(tert-butyl)phosphine/hexane, 1.76 g of cesium carbonate, 0.50 g of 5-bromobenzothiophene and 0.45 g of diethyl malonate, which was then refluxed for 2 hours. To the reaction mixture were added water and ethyl acetate, followed by adjustment to pH2 using 2 mol/L hydrochloric acid. The organic layer was separated, and dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The resultant residue was purified using silica gel column chromatography (eluent; hexane:ethyl acetate=10:1) to provide 0.69 g of diethyl 2-(1-benzothiophen-5-yl)malonate as white solid form.

reactant | tri(tert-butyl)phosphine hexane | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.CCCCCC
reactant | cesium carbonate | 1.76 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromobenzothiophene | 0.50 g | BrC=1C=CC2=C(C=CS2)C1 | C8H5BrS
reactant | diethyl malonate | 0.45 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | diethyl 2-(1-benzothiophen-5-yl)malonate | 0.69 g | S1C=CC2=C1C=CC(=C2)C(C(=O)OCC)C(=O)OCC | C15H16O4S
